US06258812B1
7-Acetamino-1-(4-chloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride
Under exclusion of air, 207 mg (0.66 mmol) 7-acetamino-1-chloro-4-(4-pyridylmethyl)-phthalazine is heated to boiling for 4 h in 2.7 ml 1-butanol with 253 mg (1.98 mmol) 4-chloroaniline. After cooling, the dark suspension is filtered off, washed with 1-butanol and ethanol, and dried to obtain title compound: m.p.: 260-265° C.; HPLC: tRet(GradS40)=10.9; FAB MS (M+H)+=404.

reactant | 7-acetamino-1-chloro-4-(4-pyridylmethyl)-phthalazine | 0.66 mmol, 207 mg | N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)Cl)CC1=CC=NC=C1 | C16H13ClN4O
reactant | 4-chloroaniline | 1.98 mmol, 253 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | 1-butanol | 2.7 ml | C(CCC)O | C4H10O
product | 7-Acetamino-1-(4-chloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)NC1=CC=C(C=C1)Cl)CC1=CC=NC=C1 | InChI=1S/C22H18ClN5O.ClH/c1-14(29)25-18-6-7-19-20(13-18)22(26-17-4-2-16(23)3-5-17)28-27-21(19)12-15-8-10-24-11-9-15;/h2-11,13H,12H2,1H3,(H,25,29)(H,26,28);1H
